US07919628B2
21.7 g of 4-Fluoro-naphthalen-1-ol were dissolved in 250 mL acetone. 39.0 g of potassium carbonate and 14.6 mL dimethyl sulfate were added at room temperature. The reaction was placed under nitrogen and stirred for 72 h. The mixture was filtrated, the solid washed with acetone, and the filtrate was concentrated to a viscous oil, which was taken up in ethyl acetate. This was washed with water and with brine, dried over sodium sulfate, filtered through celite and concentrated. The resulting oil was distilled using a Kugelrohr-apparatus, yielding 11.4 g of 4-fluoro-1-methoxynaphthalene.

reactant | 4-Fluoro-naphthalen-1-ol | 21.7 g | FC1=CC=C(C2=CC=CC=C12)O | C10H7FO
reactant | potassium carbonate | 39.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 14.6 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-fluoro-1-methoxynaphthalene | 11.4 g | FC1=CC=C(C2=CC=CC=C12)OC | C11H9FO
